US05506219
A mixture of (S)-3-[[(1,1-dimethylethyl)diphenylsilyl]oxy]-4-[[[2-(4-fluorophenyl)-4-(1-methylethyl)-3-quinolinyl]ethynyl]methoxyphosphinyl]butanoic acid, methyl ester (729 mg, 0.997 mmol), tetra-n-butylammonium fluoride (1.0M in THF, 3.0 ml, 3.0 mmol), and HOAc (304 mg, 5.06 mmol) in THF (12 ml) was stirred at room temperature for 20 hours. The solution was cooled to 0° C., quenched with 5% KHSO4, and extracted twice with EtOAc. The pooled EtOAc layers were washed twice with 5% KHSO4 and once with brine. The combined aqueous layers were back-extracted 3× with EtOAc and pooled with the initial EtOAc extracts. Drying (Na2SO4), followed by filtration and removal of the solvent afforded a yellow oil. The oil was dissolved in Et2O and EtOAc and treated with excess diazomethane for 30 minutes. The excess diazomethane was destroyed by the addition of HOAc and solvent was removed in vacuo. The residue was chromatographed (flash, Merck SiO2, 40% acetone in hexane) to afford (S)-4-[[[2-(4-fluorophenyl)-4-(1-methylethyl)- 3-quinolinyl]ethynyl]-methoxyphosphinyl]-3-hydroxybutanoic acid, methyl ester (349 mg, 72%) as a white oily foam.

reactant | (S)-3-[[(1,1-dimethylethyl)diphenylsilyl]oxy]-4-[[[2-(4-fluorophenyl)-4-(1-methylethyl)-3-quinolinyl]ethynyl]methoxyphosphinyl]butanoic acid, methyl ester | 0.997 mmol, 729 mg | CC(C)(C)[Si](O[C@@H](CC(=O)OC)CP(=O)(OC)C#CC=1C(=NC2=CC=CC=C2C1C(C)C)C1=CC=C(C=C1)F)(C1=CC=CC=C1)C1=CC=CC=C1 | C42H45FNO5PSi
reactant | tetra-n-butylammonium fluoride | 3.0 mmol, 1.0M, 3.0 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | HOAc | 5.06 mmol, 304 mg | CC(=O)O | C2H4O2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | THF | 12 ml | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-4-[[[2-(4-fluorophenyl)-4-(1-methylethyl)- 3-quinolinyl]ethynyl]-methoxyphosphinyl]-3-hydroxybutanoic acid, methyl ester | 349 mg, 72% | FC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=C1C#CP(=O)(C[C@H](CC(=O)OC)O)OC)C(C)C | C26H27FNO5P
